US07671063B2
A solution of 2-methoxy-6-nitro-benzenesulfonamide (904 mg, 3.89 mmol) and N,N-dimethyl-formamide dimethyl-acetal (0.78 mL, 5.83 mmol) in DMF (20 mL) is heated for 30 min to 60° C. Evaporation of volatiles at 50° C. under reduced pressure, addition of MeOH to the solid residue, and filtration gives N-[1-dimethylamino-methylidene]-2-nitro-6-methoxy-benzenesulfonamide.

reactant | 2-methoxy-6-nitro-benzenesulfonamide | 3.89 mmol, 904 mg | COC1=C(C(=CC=C1)[N+](=O)[O-])S(=O)(=O)N | C7H8N2O5S
reactant | N,N-dimethyl-formamide dimethyl-acetal | 5.83 mmol, 0.78 mL | COC(N(C)C)OC | C5H13NO2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | N-[1-dimethylamino-methylidene]-2-nitro-6-methoxy-benzenesulfonamide | CN(C=NS(=O)(=O)C1=C(C=CC=C1OC)[N+](=O)[O-])C | C10H13N3O5S
